US07384961B2
9.6 g tetrahydropyran-4-one were dissolved in 29 ml acetonitrile, and 9.69 g N,N-dimethyl-methylenammonium chloride, followed by 100 μl acetyl chloride, were added. After the mixture had been stirred at a bath temperature of 60° C. for 45 minutes, it was stirred at room temperature for 60 hours and the precipitate formed was filtered off with suction and dried. 16.4 g 3-dimethylaminomethyltetrahydropyran-4-one hydrochloride were obtained. The corresponding base was liberated from this with methylene chloride and sodium hydroxide solution (32 percent strength by weight).

reactant | tetrahydropyran-4-one | 9.6 g | O1CCC(CC1)=O | C5H8O2
reactant | N,N-dimethyl-methylenammonium chloride | 9.69 g | [Cl-].C[N+](C)=C
reactant | acetyl chloride | 100 μl | C(C)(=O)Cl | C2H3ClO
solvent | acetonitrile | 29 ml | C(C)#N | C2H3N
product | 3-dimethylaminomethyltetrahydropyran-4-one hydrochloride | 16.4 g | Cl.CN(C)CC1COCCC1=O | InChI=1S/C8H15NO2.ClH/c1-9(2)5-7-6-11-4-3-8(7)10;/h7H,3-6H2,1-2H3;1H
